US07763639B2
4-[2-FLUORO-3-(METHYLTHIO)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE
Preparation according to preparation 2: Tert-butyl 4-[2-fluoro-3-(methylthio)-phenyl]-4-hydroxy-piperidine-1-carboxylate (2.0 g, 5.86 mmol), trifluoroacetic acid (20 ml). Yield: 1.42 g. MS m/z (rel. intensity, 70 eV) 223 (M+, bp), 222 (32), 147 (61), 146 (47), 133 (27).

reactant | Tert-butyl 4-[2-fluoro-3-(methylthio)-phenyl]-4-hydroxy-piperidine-1-carboxylate | 5.86 mmol, 2.0 g | FC1=C(C=CC=C1SC)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C17H24FNO3S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[2-FLUORO-3-(METHYLTHIO)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE | FC1=C(C=CC=C1SC)C=1CCNCC1 | C12H14FNS
